US08703768B2
Step 2: 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid methylamide
A solution of 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methylamide (100 mg, 0.5 mmol) in ethanol (4 ml) was flushed with argon and treated with Pd/C 10% (40 mg, 0.04 mmol). The reaction vessel was evacuated and flushed with hydrogen three times and the reaction was stirred at ambient temperature overnight. The reaction mixture was filtrated and the solvent was evaporated to yield a brown viscous oil (76 mg, 91%) which was used without further purification.

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methylamide | 0.5 mmol, 100 mg | CNC(=O)C1=NN(C=C1[N+](=O)[O-])C | C6H8N4O3
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.04 mmol, 40 mg | [Pd] | Pd
product | 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid methylamide | 76 mg, 91% | CNC(=O)C1=NN(C=C1N)C | C6H10N4O
